* C:\users\eg\Desktop\hdd\Documents\UTN\2023\Dispositivos\TPS\6\simulaciones\OctaveParte.asc
XU1 A1 L G BT136
XU2 G D DB3
R1 N001 A1 5k
R2 N003 N004 R=(1-A)*{RPOT}
R3 N002 N003 R=A*RPOT
V1 N001 0 SINE(0 141 50)
C1 N004 0 0.1µ
R5 D N003 220
R6 L 0 100
R4 A1 N002 2.2k
.inc /home/eg/.wine/drive_c/users/eg/AppData/Local/LTspice/lib/st_diacs_pspice/st_diacs.lib
.tran 0 0.02 0 20u
.inc /home/eg/.wine/drive_c/users/eg/AppData/Local/LTspice/lib/st_high-temp_H-series_triacs_Pspice/st_high-temperature_triacs.lib
.param RPOT=10k
.step param A LIST 0.999 0.5 0.00001
.backanno
.end
